US06531494B1
1-(benzyloxy)-4-(chloromethyl)-2-methoxybenzene
Thionyl chloride (5.95 g, 50.0 mmol) was added to a mixture of 4-benzyloxy-3-methoxybenzylalcohol (10.0 g, 40.9 mmol) in 50 ml ether at room temperature. The reaction turned into a clear solution and was monitored by TLC. The reaction was quenched with H2O. The product was extracted with ether. The aqueous layer was extracted with ether. The combined organic layer washed with 5% NaHCO3, brine and dried with Na2SO4. Ether was evaporated and the residue was purified by chromatography (on silica gel, ethyl acetate/hexane=2/8) to give a white solid 8.10 g. NMR spectra of the product were consistent for the proposed structure.

reactant | Thionyl chloride | 50.0 mmol, 5.95 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-benzyloxy-3-methoxybenzylalcohol | 40.9 mmol, 10.0 g | C(C1=CC=CC=C1)OC1=C(C=C(CO)C=C1)OC | C15H16O3
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-(benzyloxy)-4-(chloromethyl)-2-methoxybenzene | 8.10 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCl)OC | C15H15ClO2
